US05760038
C. N-(3,4-Dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]-4'-(6-methoxy-2-pyridinyl)[1,1'-biphenyl]-2-sulfonamide
To 230 mg (0.87 mmol) of compound B, and 280 mg (0.73 mmol) of 2-Borono-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide in a mixture of 5.5 mL of degassed toluene and 3.7 mL of degassed ethanol, was added 84 mg (0.072 mmol) of tetrakis(triphenylphosphine) palladium(0) and 3.2 mL of degassed 2N aqueous sodium carbonate. The mixture was stirred at 85° C. for 3 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed with water and then brine, dried (magnesium sulfate) and evaporated. Flash chromatography (50 mm×6"; 30% to 40% to 50% ethyl acetate/hexane) afforded 172 mg of an oily-solid residue (45%).

reactant | 2-Borono-N-(3,4-dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | 0.73 mmol, 280 mg | B(O)(O)C1=C(C=CC=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NO1)C)C | C15H21BN2O7S
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 5.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3.7 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.072 mmol, 84 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(3,4-Dimethyl-5-isoxazolyl)-N-[(2-methoxyethoxy)methyl]-4'-(6-methoxy-2-pyridinyl)[1,1'-biphenyl]-2-sulfonamide | 172 mg | CC1=NOC(=C1C)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C1=NC(=CC=C1)OC)COCCOC | C27H29N3O6S
